US06265575B1
Part B. Methyl 4-[[2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl]thio]phenyl Ether
To a solution of 1.0 g (3.1 mmol) of 3-bromo-2-(4-methoxyphenyl)benzo[b]thiophene (Part A) in 20 mL of THF was added dropwise 2.9 mL of 1.6 N n-BuLi in hexanes (4.7 mmol) at −70° C. The mixture was stirred at −70° C. for 10 min and then treated with 0.87 g (3.13 mmol) of solid bis(4-methoxyphenyl)disulfide. Stirring was continued at −70° C. for 0.5 h and then the reaction was allowed to warm slowly to room temperature. The reaction was quenched with 1 mL of saturated aq NH4Cl and 1 mL of MeOH and was concentrated in vacuo. The residue was partitioned between 100 mL of EtOAc and 100 mL of H2O. The organic layer was separated, dried over MgSO4, and concentrated in vacuo to afford an oily solid which was subjected to flash chromatography (SiO2; gradient of 1-5% EtOAc in hexanes) to afford 0.82 g of the title compound as an oil.

reactant | 3-bromo-2-(4-methoxyphenyl)benzo[b]thiophene | 3.1 mmol, 1.0 g | BrC=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC=C2 | C15H11BrOS
reactant | n-BuLi | 1.6 N, 2.9 mL | [Li]CCCC
reactant | bis(4-methoxyphenyl)disulfide | COC1=CC=C(C=C1)SSC1=CC=C(C=C1)OC | C14H14O2S2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | Methyl 4-[[2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl]thio]phenyl Ether | 0.82 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)SC2=CC=C(C=C2)OC | C22H18O2S2
